datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([c:29]1[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]1[H:43])[H:38])([H:35])([H:36])[H:37]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:35])([H:36])[H:37])([c:29]1[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]1[H:43])[H:38])[H:15])([H:13])[H:14],35.8987
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[S:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15](=[S:16])[H:17],38.4928
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[S:10]=[C:11][S:12][H:13]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11](=[S:10])[S:12][H:13],31.7984
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])=[C:3]2[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])([H:16])[C:7]2([H:17])[C:8]([H:18])=[C:9]1[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])=[C:3]2[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])([H:16])[C:7]2([H:17])[C:8]([H:18])([H:20])[C:9]1[H:19],5.8576
[N:0](=[O:1])[H:2].[O:3][H:4]>>[H:2][O:3][H:4].[N:0]=[O:1],-3.9748
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]=[C:12]([C:13]([S:14][H:18])([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:16])[H:6].[S:11]=[C:12]([C:13]([S:14][H:18])[H:17])[H:15],13.8072
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:20])([H:21])[H:22])=[C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[C:16]([H:27])[H:28])[H:26])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:17])[H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[C:16]([H:27])[H:28])[H:26])[H:4],32.8444
[N:0]([H:1])([H:2])[H:3].[O:4]>>[H:1][O:4].[N:0]([H:2])[H:3],116.662
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([O:18][O:19])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:19][O:18][C:17]([C:16]([C:15]([C:14]([H:20])([H:21])[H:22])([H:23])[H:24])([H:25])[H:26])([H:27])[H:28],66.944
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[H:14])[C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:15])([H:16])[H:17])([H:14])[C:8]([C:9]([H:24])([H:25])[H:26])([C:10]([H:27])([H:28])[H:29])[C:7]([H:22])([H:23])[C:6]([H:20])([H:21])[C:5]1([H:18])[H:19])[H:13])([H:11])[H:12],29.1206
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12](=[S:13])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11](=[C:10]([H:14])[H:15])[C:12](=[S:13])[H:16],58.576
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13][O:14]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:12][O:13][O:14],157.3184
[C:13]([H:14])([H:15])[H:16].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([H:14])([H:15])[H:16].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],20.200352
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([O:18][O:19])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:19][O:18][C:17]([C:16]([C:15]([C:14]([H:20])([H:21])[H:22])([H:23])[H:24])([H:25])[H:26])([H:27])[H:28],85.60464
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13])[H:4],60.1659
[O:0]([H:1])[H:2].[c:3]1([H:8])[c:4]([H:9])[c:5]([H:10])[s:6][c:7]1[H:11]>>[O:0]([H:2])[C:4]1([H:9])[C:3]([H:8])=[C:7]([H:11])[S:6][C:5]1([H:1])[H:10],257.023
[C:0](=[O:1])([H:2])[H:3].[C:4](=[C:5][C:6]([C:7]([C:8](=[C:9]([H:17])[H:18])[C:10]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12]>>[C:0]([O:1])([H:2])([H:3])[C:5](=[C:4]([H:11])[H:12])[C:6]([C:7]([C:8](=[C:9]([H:17])[H:18])[C:10]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14],20.02705072
[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1[H:12])([H:6])([H:7])[H:8].[H:13]>>[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13])([H:6])([H:7])[H:8],0.008368
